US08937071B2
To a solution of 5-bromo-3-ethoxy-2-((4-methoxybenzyl)oxy)pyridine (10 g, 29.6 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (8.26 g, 32.5 mmol) and potassium acetate (7.25 g, 73.9 mmol) in 1,4-dioxane (250 mL) stirred under nitrogen at 20° C. was added PdCl2(dppf) (1.082 g, 1.478 mmol) in one charge. The reaction mixture was stirred at 100° C. for 3 h. The mixture was filtered and the filtrate was concentrated in vacuo to give the crude product. The crude material was purified by silica column chromatography (PE/EA=10:1). All fractions found to contain product by TLC (PE/EA=10:1, Rf=0.6) were combined and concentrated to yield a white solid of 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (9.2 g, 23.88 mmol, 81.0% yield): 1H NMR (400 MHz, CDCl3) δ 8.10 (s, 1H), 7.42 (d, J=8.8 Hz, 2H), 7.33 (s, 1H), 6.88-6.85 (m, 2H), 5.45 (s, 2H), 4.11-4.06 (m, 2H), 3.78 (s, 3H), 1.43 (t, J=7.0 Hz, 3H), 1.33 (s, 12H); ES-LCMS m/z 386.0 (M+H).

reactant | 5-bromo-3-ethoxy-2-((4-methoxybenzyl)oxy)pyridine | 29.6 mmol, 10 g | BrC=1C=C(C(=NC1)OCC1=CC=C(C=C1)OC)OCC | C15H16BrNO3
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 32.5 mmol, 8.26 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 73.9 mmol, 7.25 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 250 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 1.478 mmol, 1.082 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 23.88 mmol, 9.2 g, 81.0% yield | C(C)OC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OCC1=CC=C(C=C1)OC | C21H28BNO5
